US06011031
4-[2-(9-Oxophenothiazin-10-yl)ethoxy]benzaldehyde
The title compound (2.2 g, 67%) was prepared as a thick liquid from 9-oxophenothiazin (2.0 g, 9.3 mmol) and 2-(4-formylphenoxy)ethyl methanesulfonate (2.7 g, 11 mmol) using a similar procedure to that described in preparation 3.

reactant | 9-oxophenothiazin | 9.3 mmol, 2.0 g | O=C1C=CC=C2SC=3C=CC=CC3N=C12 | C12H7NOS
reactant | 2-(4-formylphenoxy)ethyl methanesulfonate | 11 mmol, 2.7 g | CS(=O)(=O)OCCOC1=CC=C(C=C1)C=O | C10H12O5S
product | 4-[2-(9-Oxophenothiazin-10-yl)ethoxy]benzaldehyde | 2.2 g, 67% | O=C1CC=CC=2SC=3C=CC=CC3N(C12)CCOC1=CC=C(C=O)C=C1 | C21H17NO3S
